US09340538B2
Step E: 2-(4-((6-(2-bromo-4-fluorophenyl)-2-(1-(2-ethoxy-2-oxoethyl)-1H-1,2,4-triazol-3-yl)-5-(ethoxycarbonyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-2-yl)acetic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1-(2-ethoxy-2-oxoethyl)-1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate (0.57 g, 1 mmol) was reacted with 2-(morpholin-2-yl)acetic acid hydrochloride (0.3 g, 1.65 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.34 g, 53%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1-(2-ethoxy-2-oxoethyl)-1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 1 mmol, 0.57 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C1=NN(C=N1)CC(=O)OCC | C20H20Br2FN5O4
reactant | 2-(morpholin-2-yl)acetic acid hydrochloride | 1.65 mmol, 0.3 g | Cl.N1CC(OCC1)CC(=O)O
product | 2-(4-((6-(2-bromo-4-fluorophenyl)-2-(1-(2-ethoxy-2-oxoethyl)-1H-1,2,4-triazol-3-yl)-5-(ethoxycarbonyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-2-yl)acetic acid | 0.34 g, 53% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C1=NN(C=N1)CC(=O)OCC)CN1CC(OCC1)CC(=O)O)C(=O)OCC | C26H30BrFN6O7
